US07662972B2
Step 2: Production of 4-formyl-2-methyl-N-(2-pyridylmethyl)benzoic acid amide
In a solution of 2.0 g of 4-bromo-2-methyl-N-(2-pyridylmethyl)benzoic acid amide in 20 ml of N,N-dimethylformamide in an autoclave, 0.67 g of sodium formate and 0.10 g of dichlorobis(triphenylphosphine) palladium (II) were added, and stirred under 1.05 MPa carbon monoxide atmosphere at 110° C. for 3 hours. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and poured in 100 ml of water, and extracted with ethyl acetate (50 ml×2). The organic phases together were dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (9:1), and 0.50 g of the aimed product was obtained as pale yellow crystal.

reactant | 4-bromo-2-methyl-N-(2-pyridylmethyl)benzoic acid amide | 2.0 g | BrC1=CC(=C(C(=O)NCC2=NC=CC=C2)C=C1)C | C14H13BrN2O
reactant | sodium formate | 0.67 g | C(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-formyl-2-methyl-N-(2-pyridylmethyl)benzoic acid amide | 0.50 g | C(=O)C1=CC(=C(C(=O)NCC2=NC=CC=C2)C=C1)C | C15H14N2O2
